US06579897B2
5-Butanoyl-2-oxindole
To 15 g aluminum chloride suspended in 30 mL 1,2-dichloro-ethane in an ice bath was added 7.5 g of 2-oxindole and then 12 g of butanoyl chloride. The resulting suspension was heated to 50° C. overnight. The mixture was poured into ice water and extracted 3 times with ethyl acetate. The combined ethyl acetate layers were washed with brine, dried over sodium sulfate, and concentrated to dryness to give a brown solid. The solid was chromatographed on silica gel (50% ethyl acetate in hexane) to give 3 g (25%) of the title compound as a yellow solid. 5-Cyanoethyl-2-oxindole Potassium cyanide (2.0 g) was added to 15 mL of dimethyl-sulfoxide and heated to 90° C. 5-Chloroethyl-2-oxindole (3.0 g) dissolved in 5 mL dimethyl sulfoxide was added slowly with stirring, and the reaction heated to 150° C. for 2 hours. The mixture was cooled, poured into ice water and the precipitate collected by vacuum filtration, washed with water, dried and then chromatographed on silica gel (5% methanol in chloroform) to give 1.2 g (42% yield) of the title compound.

reactant | 5-Cyanoethyl-2-oxindole Potassium cyanide | 2.0 g | [C-]#N.[K+].C(#N)CCC=1C=C2CC(NC2=CC1)=O
reactant | 5-Chloroethyl-2-oxindole | 3.0 g | ClCCC=1C=C2CC(NC2=CC1)=O | C10H10ClNO
reactant | dimethyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
reactant | dimethyl-sulfoxide | 15 mL | CS(=O)C | C2H6OS
product | 5-Butanoyl-2-oxindole | 1.2 g, 42% yield | C(CCC)(=O)C=1C=C2CC(NC2=CC1)=O | C12H13NO2
